US05817671
5-(N-[ethoxycarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.010 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.005 mL (0.053 mMol) ethyl chloroformate, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.010 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | ethyl chloroformate | 0.053 mMol, 0.005 mL | ClC(=O)OCC | C3H5ClO2
product | 5-(N-[ethoxycarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | C(C)OC(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C16H22N4O2
